US04263037
2-Chloroacetoxy-5-cyano-2,3-dihydro-3,3-dimethylbenzofuran (I)
Chloroacetyl chloride (3.6 g) was added dropwise to a solution of 5-cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran (5 g) prepared as in Example 10, and triethylamine (3.2 g) in diethyl ether (50 ml) with stirring and cooling. After 3 hours at room temperature, the mixture was shaken with water and an insoluble solid product was filtered off and dried to give 2.4 g of title compound, mp 138° C.

reactant | Chloroacetyl chloride | 3.6 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 5-cyano-2,3-dihydro-3,3-dimethyl-2-hydroxybenzofuran | 5 g | C(#N)C=1C=CC2=C(C(C(O2)O)(C)C)C1 | C11H11NO2
reactant | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-Chloroacetoxy-5-cyano-2,3-dihydro-3,3-dimethylbenzofuran | 2.4 g | ClCC(=O)OC1OC2=C(C1(C)C)C=C(C=C2)C#N | C13H12ClNO3
